US05017563
To a suspension of 3 g of castanospermine in 30 ml of pyridine at 0° C. was added dropwise a solution of 3 g of 4-methylbenzoyl chloride. After the addition, the mixture wad allowed to warm to room temperature and then heated at 55° C. for 24 hours. The reaction mixture was diluted with 10 ml of water and evaporated to dryness in vacuo. The resulting residue was stirred in 150 ml of a 1:2 mixture of water: methylene chloride. The insoluble material was separated by filtration to provide an amorphous off-white solid which was dissolved in 60 ml of hot methanol, treated with 0.5 g of activated charcoal and filtered. The colorless filtrate was cooled to give colorless crystals of [1S-(1α, 6β, 7α, 8β, 8αβ) ]-octahydro-1,6,7,8-indolizinetetrol 6-(4-methylbenzoate) melting at about 255-258° C. with decomposition (580 mg, 12% yield).

reactant | castanospermine | 3 g | C1CN2C[C@@H]([C@H]([C@@H]([C@H]2[C@H]1O)O)O)O | C8H15NO4
reactant | 4-methylbenzoyl chloride | 3 g | CC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO
reactant | charcoal | 0.5 g | C | CH4
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 10 ml | O | H2O
solvent | methanol | 60 ml | CO | CH4O
product | octahydro-1,6,7,8-indolizinetetrol 6-(4-methylbenzoate) | 12% yield | CC1=CC=C(C(=O)OC2CN3CCC(C3C(C2O)O)O)C=C1 | C16H21NO5
